US07122499B2
To 3.5 ml of a water-acetone (1:1) solvent were added 66.6 mg of the osmium oxide carried by the carrier of the present invention obtained in Example 4, 21.5 mg of 1,4-bis(9-o-dihydroquinidil)phthalazine, 362.2 mg of potassium ferricyanide and 152.0 mg of potassium carbonate, followed by reacting at 30° C. for 1 hour while stirring. And 59.0 mg of trans-β-methylstyrene dissolved in 1.5 ml of a water-acetone (1:1) solvent were added to the reaction solution and followed by reacting for another 2 hours while stirring. And further, 362.2 mg of potassium ferricyanide and 152.0 mg of potassium carbonate were added to the reaction solution and followed by reacting for another 2 hours while stirring. After the reaction was terminated by adding methanol, the filtrate obtained by filtrating the reaction solution was concentrated to some extent. The obtained product was dissolved in 5 ml of methylene chloride and filtrated using Celite. The filtrate was concentrated and purified using a silica gel thin-layer chromatography, to obtain 70.6 mg of a desired diol, 1-phenyl-1,2-propane diol (yield 85%) (97% ee).

reactant | trans-β-methylstyrene | 59.0 mg | C\C=C\C1=CC=CC=C1 | C9H10
reactant | potassium carbonate | 152.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water acetone | 1.5 ml | O.CC(=O)C
catalyst | potassium ferricyanide | 362.2 mg | [Fe-3](C#N)(C#N)(C#N)(C#N)(C#N)C#N.[K+].[K+].[K+]
product | 1-phenyl-1,2-propane diol | yield 85% | C1(=CC=CC=C1)C(C(C)O)O | C9H12O2
